Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
painful contractions
 
Major Surgical or Invasive Procedure:
spontaneous vaginal delivery
 
History of Present Illness:
___ G2P1 at 37w3d with painful contractions. Denies leakage of 
fluid or decreased fetal movements.
 
Past Medical History:
PNC: ___ ___
Labs: B+, ab neg, HBsAg neg, RPRNR, RI, HIV neg, GBS neg
Genetics: low risk aneuploidy screening, FFS WNL, AFL wnl
___ EFW 2460g, 64# with AC 92%

POBHx ___ SVD 8#9 with GDMA1
PMHx joint pain
PSHx denies
 
Family History:
NC
 
Physical Exam:
On admission:
VS 97.7  95  16  114/70
General NAD
Abdomen Soft, gravid NT
Ext NT NE
FHT 130/mod var/+accels/no decels
Toco q5 min
SVE ___ (+sutures)
8.5# leopolds
 
Pertinent Results:
___ 08:24AM BLOOD WBC-8.1 RBC-4.17* Hgb-12.5 Hct-35.8* 
MCV-86 MCH-30.0 MCHC-34.9 RDW-15.6* Plt ___
___ 09:35AM BLOOD Hct-32.5*
___ 09:15PM BLOOD Creat-0.3*

___ L-Spine MRI: Essentially normal MR lumbar spine. 
Specifically, no abnormal fluid collection, cord or cauda equina 
compression. 

___ Lumbosacral MRI: final read pending.  Prelim read--
Lack of contrast decreases the sensitivity of this study. No 
evidence of nerve  asymmetry or obstructing masses. Incompletely 
imaged enlarged uterus, expected in a post-partum patient. Mild 
decreased T1 signal in the marrow which could be seen with 
benign conditions such as chronic anemia. 
 
Brief Hospital Course:
Ms. ___ was admitted to Labor and Delivery in active labor.  
Her labor was augmented with pitocin, and on ___ she 
underwent uncomplicated spontaneous vaginal delivery of a 3500g 
live female infant with APGAR's 9 and 9.  On postpartum day 1 
she complained of left leg pain and weakness with dorsiflexion 
and knee extension.  She was evaluated by Anesthesia, Neurology, 
and Physical Therapy.  MRI of L-spine and lumbosacral plexus did 
not show evidence of disc herniation or cauda equina 
compression, and her symptoms were attributed to nerve 
compression during labor and delivery.  Her symptoms were 
treated conservatively with lidocaine patches and heat 
compresses.  

She received fingersticks for GDMA2 until 24 hours postpartum 
and was instructed to follow up for 6 week oral glucose 
challenge.  

She was discharged on postpartum day 5 in good condition with 
outpatient follow-up scheduled. 
 
Medications on Admission:
Humalog 10/0/6, NPH 22 HS, ranitidine
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice per day Disp #*60 Capsule Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg one tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 6 hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p vaginal delivery with regional anesthesia
leg weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
follow routine postpartum/physical therapy instructions 
 
Followup Instructions:
___